US05859007
(1-Methyl-1H-indazol-3-yl) methanol
To a stirring solution of 440 mg (2.31 mmol) of 1-Methyl-1H-indazole-3-carboxylic acid methyl ester (Fludzinski, P. et. al. J. Med. Chem. 1987, 30, 1535) in 10 mL dichloromethane at -78° C. is added dropwise over 5 min a solution of 5.8 mL (5.8 mmol, 2.5 equiv) of a 1.0M solution of DIBAL-H in hexane. The resulting solution is allowed to slowly warm to RT over a 3 h period then quenched by careful addition of 5 mL of H2O. The reaction mixture is poured into 100 mL of EtOAc and extracted with 1N HCl (1×100 mL), dried (MgSO4), and the solvent removed in vacuo. Purification of the crude material by silica gel flash column chromatography using hexane/EtOAc 1/1 as eluent afforded 340 mg of the title compound as a pale yellow oil: 1H NMR (CDCl3, 300 MHz) δ7.80 (d, 1H), 7.42-7.12 (m, 3H), 5.02 (d, 2H), 4.00 (s, 3H), 2.27 (m, 1H); Rf =0.25 in hexane/EtOAc 1/1.

reactant | 1-Methyl-1H-indazole-3-carboxylic acid methyl ester | 2.31 mmol, 440 mg | COC(=O)C1=NN(C2=CC=CC=C12)C | C10H10N2O2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | (1-Methyl-1H-indazol-3-yl) methanol | 340 mg | CN1N=C(C2=CC=CC=C12)CO | C9H10N2O
